US06774136B2
2-Chlorobenzoic Acid 1-(Dimethylaminophenylmethyl)-naphthalen-2-yl Ester
The preparation was carried out in accordance with general synthesis instructions 4 and 6 from 2-naphthol, benzylidene-dimethyl-ammonium chloride and 2-chlorobenzoyl chloride.

reactant | 2-naphthol | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | benzylidene-dimethyl-ammonium chloride | [Cl-].C(C1=CC=CC=C1)=[N+](C)C
reactant | 2-chlorobenzoyl chloride | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
product | 2-Chlorobenzoic Acid 1-(Dimethylaminophenylmethyl)-naphthalen-2-yl Ester | CN(C)C(C1=C(C=CC2=CC=CC=C12)OC(C1=C(C=CC=C1)Cl)=O)C1=CC=CC=C1 | C26H22ClNO2
